US09301951B2
3-(3-(2-(4-(4-morpholinobenzylcarbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)-phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of tert-butyl 3-(3-(2-(4-(4-morpholinobenzylcarbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenylcarbamoyl)-benzylthio)propanoate (170 mg, 0.20 mmol, 1.00 equiv, 86%) in dichloromethane (20 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The solution was adjusted to pH 7-8 with NaHCO3 (aq). The resulting solution was extracted with 3×30 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×30 mL of brine, dried over NaSO4 and concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 17 mg (13%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 8.96 (s, 1H), 8.49 (m, 1H), 8.34 (s, 1H), 7.79 (m, 4H), 7.54 (m, 3H), 7.16 (m, 2H), 6.89 (m, 2H), 4.42 (s, 2H), 3.86 (s, 2H), 3.70 (m, 5H), 3.49 (s, 4H), 3.04 (m, 4H), 2.60 (m, 2H), 1.78 (m, 6H). MS (ES, m/z): 694 [M+H]+.

reactant | tert-butyl 3-(3-(2-(4-(4-morpholinobenzylcarbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenylcarbamoyl)-benzylthio)propanoate | 0.20 mmol, 170 mg, 1.00 equiv | O1CCN(CC1)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=C1 | C43H51N5O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(3-(2-(4-(4-morpholinobenzylcarbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)-phenylcarbamoyl)benzylthio)propanoic acid | 17 mg, 13% | O1CCN(CC1)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=C1 | C39H43N5O5S
